US06313162B1
(b) 3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propyne
20 g (0.82 mol) of magnesium activated with 0.1 ml of dibromoethane are introduced into a four litre reactor under a stream of nitrogen. A solution of 200 g (0.75 mol) of 2-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene is added dropwise so as to maintain the reflux of the THF and the mixture is stirred at 50° C. for two hours. The reaction medium is then cooled to −5° C. and 1.2 g (8.2 mmol) of CuBr are added and a solution of 58 g (0.82 mol) of methoxyallene in 100 ml of THF is introduced dropwise. The mixture is stirred for one hour at −5° C. and is then allowed to return to room temperature and is stirred for two hours. The reaction medium is poured into saturated ammonium chloride solution and extracted with ethyl acetate, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The oil obtained is distilled at 0.02 mm Hg and the fraction passing at 95-100° C. is collected. 79 g (47%) of the expected product are obtained in the form of a colourless oil.

reactant | magnesium | 0.82 mol, 20 g | [Mg] | Mg
reactant | dibromoethane | 0.1 ml | BrC(C)Br | C2H4Br2
reactant | 2-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 0.75 mol, 200 g | BrC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C14H19Br
reactant | methoxyallene | 0.82 mol, 58 g | COC=C=C | C4H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propyne | 79 g, 47% | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC#C)C | C17H22
